US08304557B2
6-methoxy[1,2,4]triazolo[1,5-a]pyridin-2-amine
In the same manner as in the below-mentioned Example 23-1 and using ethyl {[(5-methoxypyridin-2-yl)amino]carbonothioyl}carbamate (1.34 g, 5.25 mmol), hydroxylammonium chloride (2.55 g, 36.7 mmol), N,N-diisopropylethylamine (4.57 mL, 26.2 mmol), ethanol (15 mL) and methanol (15 mL) as starting materials, the title compound (790 mg, 92%) was obtained as a yellow oil.

reactant | ethyl {[(5-methoxypyridin-2-yl)amino]carbonothioyl}carbamate | 5.25 mmol, 1.34 g | COC=1C=CC(=NC1)NC(=S)NC(OCC)=O | C10H13N3O3S
reactant | hydroxylammonium chloride | 36.7 mmol, 2.55 g | [Cl-].O[NH3+]
reactant | N,N-diisopropylethylamine | 26.2 mmol, 4.57 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethanol | 15 mL | C(C)O | C2H6O
solvent | methanol | 15 mL | CO | CH4O
product | 6-methoxy[1,2,4]triazolo[1,5-a]pyridin-2-amine | 790 mg, 92% | COC=1C=CC=2N(C1)N=C(N2)N | C7H8N4O
